US08937091B2
4-chloro-1-acryloylbenzene 8264
Chlorobenzene (0.3 mL), acryloyl chloride (120 mg), and aluminium chloride (115 mg) were reacted in dichloromethane (1 mL) at from 0° C. to room temperature for 4 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (390 mg).

reactant | Chlorobenzene | 0.3 mL | ClC1=CC=CC=C1 | C6H5Cl
reactant | acryloyl chloride | 120 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 115 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-chloro-1-acryloylbenzene | 390 mg | ClC1=CC=C(C=C1)C(C=C)=O | C9H7ClO
